US08426447B2
A vial was charged with (R)-2′-bromo-7′-(neopentyloxy)-5H-spiro[oxazole-4,9′-xanthen]-2-amine (55.6 mg, 0.133 mmol), tetrakis(triphenylphosphine)palladium (0) (15.40 mg, 0.013 mmol), 2-(tributylstannyl)pyrazine (148 mg, 0.400 mmol), and dioxane (0.7 mL). The vial was sealed under a blanket of Ar gas and placed in a 100° C. oil for 16 h. The mixture was then cooled and filtered through celite. The filtrate was evaporated, and the residue was purified by chromatography on a 12-g Redi-Sep column, eluting with 0-10% MeOH/DCM to give a brown oil. This oil was dissolved in MeOH and filtered through a 2 micron filter, then purified further by reverse-phase HPLC (10-90% CH3CN/H2O with 0.1% TFA). The product containing fractions were combined in saturated aqueous sodium bicarbonate solution with the aid of MeOH. The mixture was extracted with DCM (2×), and the combined organic extracts were dried over sodium sulfate, filtered, and evaporated to give (S)-2′-(neopentyloxy)-7′-(pyrazin-2-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine as a white solid. MS m/z=417.2 [M+H]+. Calc'd for C24H25N4O3: 417.19.

reactant | (R)-2′-bromo-7′-(neopentyloxy)-5H-spiro[oxazole-4,9′-xanthen]-2-amine | 0.133 mmol, 55.6 mg | BrC1=CC=2[C@@]3(C4=CC(=CC=C4OC2C=C1)OCC(C)(C)C)N=C(OC3)N | C20H21BrN2O3
reactant | 2-(tributylstannyl)pyrazine | 0.400 mmol, 148 mg | C(CCC)[Sn](C1=NC=CN=C1)(CCCC)CCCC
reactant | dioxane | 0.7 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | CO | CH4O
catalyst | tetrakis(triphenylphosphine)palladium | 0.013 mmol, 15.40 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-2′-(neopentyloxy)-7′-(pyrazin-2-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine | C(C(C)(C)C)OC1=CC=2[C@]3(C4=CC(=CC=C4OC2C=C1)C1=NC=CN=C1)N=C(OC3)N | C24H24N4O3
